US07700589B2
1e) (R)-2-amino-3-(3,4-diethyl-phenyl)-propionic acid
A mixture of 7.8 g (21.2 mmol) of (R)-2-amino-3-(3,4-diethyl-phenyl)-N-((1S,2S)-2-hydroxy-1-methyl-2-phenyl-ethyl)-N-methyl-propionamide, 50 mL of water and 50 mL of 1,4-dioxane was refluxed for 7 days. The reaction mixture was evaporated down under reduced pressure, the residue remaining was stirred with EtOH and suction filtered. The desired product was obtained in the form of a white solid.

reactant | (R)-2-amino-3-(3,4-diethyl-phenyl)-N-((1S,2S)-2-hydroxy-1-methyl-2-phenyl-ethyl)-N-methyl-propionamide | 21.2 mmol, 7.8 g | N[C@@H](C(=O)N(C)[C@H]([C@H](C1=CC=CC=C1)O)C)CC1=CC(=C(C=C1)CC)CC | C23H32N2O2
reactant | water | 50 mL | O | H2O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | (R)-2-amino-3-(3,4-diethyl-phenyl)-propionic acid | N[C@@H](C(=O)O)CC1=CC(=C(C=C1)CC)CC | C13H19NO2
